US05840732
i) Synthesis of 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione
To a solution of 1.45 g (5 mmol) of 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione and 0.53 ml (5 mmol) of 1-pentanal in 20 ml of ethanol, 0.05 ml (0.5 mmol) of pyrrolidine was added at 60° C., followed by refluxing for 19 hours (2.5 hours later, 0.53 ml (5 mmol) of 1-pentanal and 0.05 ml (0.5 mmol) of pyrrolidine were further added). After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in dichloromethane, washed with purified water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=1/1→1/4), after which the solvent was distilled off, to yield 0.29 g (16.3%, yellow oily substance) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 5 mmol, 1.45 g | N=1C=CN2C1C(=CC=C2)OCCCCN2C(SCC2=O)=O | C14H15N3O3S
reactant | 1-pentanal | 5 mmol, 0.53 ml | C(CCCC)=O | C5H10O
reactant | pyrrolidine | 0.5 mmol, 0.05 ml | N1CCCC1 | C4H9N
reactant | 1-pentanal | 5 mmol, 0.53 ml | C(CCCC)=O | C5H10O
reactant | pyrrolidine | 0.5 mmol, 0.05 ml | N1CCCC1 | C4H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | C(CCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C19H23N3O3S
